US08247617B2
Synthesis of 2,2-dimethyl-5-(iso-propylamino)-3-hexanone
To a solution of 15.00 g (105.49 mmol) 2,2-dimethyl-3,5-hexanedione in 50 mL of toluene loaded with 30.00 g sodium sulfate was added 12.47 g (210.97 mmol) isopropylamine. The mixture was refluxed for 4 days. Removal of toluene resulted in a yellow oil, which was subjected to vacuum transfer at 80° C. under 125 mTorr. 16.5 g of clear oil was obtained with a yield of 84%. 1H NMR (500 MHz, C6D6): δ=11.50 (s, 1H), 5.16 (s, 1H), 3.11 (m, 1H), 1.49 (s, 3H), 1.31 (s, 9H), 0.79 (d, 6H).

reactant | 2,2-dimethyl-3,5-hexanedione | 105.49 mmol, 15.00 g | CC(C)(C(CC(C)=O)=O)C | C8H14O2
reactant | sodium sulfate | 30.00 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | isopropylamine | 210.97 mmol, 12.47 g | C(C)(C)N | C3H9N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethyl-5-(iso-propylamino)-3-hexanone | 16.5 g, yield of 84% | CC(C)(C(CC(C)NC(C)C)=O)C | C11H23NO
